US09120777B2
L) Methyl 3-methyl-2-oxo-1-(piperidin-4-yl)-1,2-dihydropyridine-4-carboxylate hydrochoride
To 2M hydrogen chloride (2-propanol solution 2.85 L) was added methyl 1-(1-(tert-butoxycarbonyl)piperidin-4-yl)-3-methyl-2-oxo-1,2-dihydropyridine-4-carboxylate (200 g) at room temperature. The mixture was stirred at room temperature for 18 hours. Diisopropyl ether (11.5 L) was added to the reaction mixture and the precipitate was collected by filtration, washed with diisopropyl ether (2.86 L) to give the title compound (163.2 g).

reactant | hydrogen chloride | 2M, 2.85 L | Cl | ClH
reactant | methyl 1-(1-(tert-butoxycarbonyl)piperidin-4-yl)-3-methyl-2-oxo-1,2-dihydropyridine-4-carboxylate | 200 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C(=C(C=C1)C(=O)OC)C)=O | C18H26N2O5
reactant | Diisopropyl ether | 11.5 L | C(C)(C)OC(C)C | C6H14O
product | Methyl 3-methyl-2-oxo-1-(piperidin-4-yl)-1,2-dihydropyridine-4-carboxylate hydrochoride | 163.2 g | Cl.CC=1C(N(C=CC1C(=O)OC)C1CCNCC1)=O | InChI=1S/C13H18N2O3.ClH/c1-9-11(13(17)18-2)5-8-15(12(9)16)10-3-6-14-7-4-10;/h5,8,10,14H,3-4,6-7H2,1-2H3;1H
